US06143764
6,7-Dimethoxy-4-(2-methoxyphenoxy)quinoline [1]
4-Chloro-6,7-dimethoxyquinoline (102 mg) and commercially available 2-methoxyphenol (0.5 ml) were mixed and stirred at 150° C. for 8 hours. The reaction mixture was neutralized with saturated aqueous sodium hydrogen carbonate and then partitioned between water and ethyl acetate, and the ethyl acetate layer was washed with brine and then dried with sodium sulfate. After removing the solvent by reduced-pressure distillation, the resulting residue was purified by column chromatography on silica gel eluting first with hexane/ethyl acetate and then with chloroform/methanol to obtain 76 mg of the title compound (yield: 54%).

reactant | 4-Chloro-6,7-dimethoxyquinoline | 102 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | 2-methoxyphenol | 0.5 ml | COC1=C(C=CC=C1)O | C7H8O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 6,7-Dimethoxy-4-(2-methoxyphenoxy)quinoline | 76 mg, yield: 54% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=CC=C1)OC | C18H17NO4
